US06077832
5,6-Dichloro-2-(isobutylamino)-1-(beta-L-ribofuranosyl)-1H-benzimidazole
Isobutylamine (10 ml ) and 2-bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (0.6 g, 1.1 mmol) were combined with absolute ethanol (50 mL) and stirred at 75° C. for 24 h. The reaction mixture was concentrated and purified on a silica gel column (2.5 cm×16 cm, 230-400 mesh) with 1:20 methanol:dichloromethane (500 mL), then 1:9 methanol:dichloromethane to give a tan solid (0.39 g, 1.0 mmol. 90%); m.p. 136° C.; [a]20D =(-) 28.4 (c=0.5 DMF).

reactant | Isobutylamine | 10 ml | C(C(C)C)N | C4H11N
reactant | 2-bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 1.1 mmol, 0.6 g | BrC1=NC2=C(N1[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O)C=C(C(=C2)Cl)Cl | C18H17BrCl2N2O7
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-2-(isobutylamino)-1-(beta-L-ribofuranosyl)-1H-benzimidazole | ClC1=CC2=C(N(C(=N2)NCC(C)C)[C@@H]2[C@@H](O)[C@@H](O)[C@@H](O2)CO)C=C1Cl | C16H21Cl2N3O4
